US07589232B2
Step a) Formation of methyl 5-({4-[(4-butylphenyl)ethynyl]benzyl}amino)-2-fluorobenzoate
The titled compound was prepared following the procedure A using 4-[(4-butylphenyl)ethynyl]benzaldehyde and methyl 5-amino-2-fluorobenzoate as a white powder (74%). 1HNMR (CDCl3, 300 MHz) δ 7.51 (d, J=7.9 Hz, 2H), 7.45 (d, J=8.0 Hz, 2H), 7.34 (d, J=8.0 Hz, 2H), 7.17 (m, 3H), 6.97 (m, 1H), 6.76 (m, 1H), 4.35 (s, 2H), 3.92 (s, 3H), 2.63 (t, J=7.8 Hz, 2H), 1.61 (m, 2H), 1.37 (m, 2H), 0.94 (t, J=7.4 Hz, 3H). M+ (ESI): 414.0. HPLC, Rt: 5.78 min (Purity: 98.2%).

reactant | 4-[(4-butylphenyl)ethynyl]benzaldehyde | C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(C=O)C=C1 | C19H18O
reactant | methyl 5-amino-2-fluorobenzoate | NC=1C=CC(=C(C(=O)OC)C1)F | C8H8FNO2
product | methyl 5-({4-[(4-butylphenyl)ethynyl]benzyl}amino)-2-fluorobenzoate | C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(CNC=2C=CC(=C(C(=O)OC)C2)F)C=C1 | C27H26FNO2
